US07981918B2
(3R,5S)-3-[2,6-Dichloro-4-(4-trifluoromethyl-piperidine-1-carbonyl)-benzyl]-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one
Dissolve (3R,5S)-Trifluoro-methanesulfonic acid 3,5-dichloro-4-[2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester (Preparation 43) (0.307 g, 0.48 mmol) in 5 ml of argon-sparged toluene. Treat with 4-trifluoromethylpiperidine-HCl salt (0.27 g, 1.43 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) (0.02 g, 0.024 mmol) and triethylamine (0.21 ml, 1.48 mmol). Stir under 48 psi carbon monoxide pressure at 80° C. for 4 hr. Add 3 ml of argon-sparged dimethyl formamide and more triethylamine (0.25 ml, 1.76 mmol). Heat at 80° C. for 5 hrs under 50 psi carbon monoxide pressure. LCMS shows consumption of starting material. Cool to ambient temperature and add ethyl acetate (50 ml) and water (10 ml). Extract the aqueous phase with ethyl acetate (50 ml). Wash the organic phases with water (10 ml) and brine (10 ml). Combine the organic phases, dry over sodium sulfate and concentrate under reduced pressure. Dissolve the crude product in 5 ml of dimethoxyethane and treat with 2 M aqueous lithium hydroxide solution (1 ml). Stir for 2 hrs at ambient temperature. Dilute with ethyl acetate (50 ml) and water (10 ml) and extract the aqueous phase with ethyl acetate (50 ml). Wash the organic phases with water (10 ml) and brine (10 ml). Combine the organic phases, dry over sodium sulfate and concentrate under reduced pressure. Chromatography (silica, 97:3 CH2Cl2/2M NH3 in MeOH) yields 0.080 g as a white solid MS (m/z): 543 (M+1).

reactant | (3R,5S)-Trifluoro-methanesulfonic acid 3,5-dichloro-4-[2-oxo-1-(2-trifluoromethanesulfonyl-4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-3-ylmethyl]-phenyl ester | 0.48 mmol, 0.307 g | ClC=1C=C(C=C(C1C[C@H]1C(N(CC1)[C@@H]1CC2=CN(N=C2CC1)S(=O)(=O)C(F)(F)F)=O)Cl)OS(=O)(=O)C(F)(F)F | C20H17Cl2F6N3O6S2
reactant | 4-trifluoromethylpiperidine-HCl salt | 1.43 mmol, 0.27 g | Cl.FC(C1CCNCC1)(F)F
reactant | triethylamine | 1.48 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | triethylamine | 1.76 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | 0.024 mmol, 0.02 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | (3R,5S)-3-[2,6-Dichloro-4-(4-trifluoromethyl-piperidine-1-carbonyl)-benzyl]-1-(4,5,6,7-tetrahydro-2H-indazol-5-yl)-pyrrolidin-2-one | ClC1=C(C[C@H]2C(N(CC2)[C@@H]2CC3=CNN=C3CC2)=O)C(=CC(=C1)C(=O)N1CCC(CC1)C(F)(F)F)Cl | C25H27Cl2F3N4O2
